US06987114B1
1-(Cyclopropyl)methyl-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and bromomethyl cyclopropane were reacted by the same way with the example 1 to obtain the titled compound (170 mg, yield: 49.4%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | bromomethyl cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropyl)methyl-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 170 mg, yield: 49.4% | C1(CC1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C19H24N2O2S
